US07494986B2
Step A: 2-Butyl-2-phenylhex-5-enenitrile
To a solution of 2-phenylacetonitrile (1 mL) in DMF (1.0 mL) at 0° C. was added sodium hydride (95% oil dispersion, 547 mg) and the resulting suspension was stirred at 0° C. for 10 min. 4-Bromobut-1-ene (2.2 mL) was added, and the reaction mixture was stirred at room temperature for 2 h. Saturated sodium chloride was added followed by ethyl acetate, the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and filtered, and the filtrate was evaporated in vacuo. The residue was purified by silica gel flash chromatography eluting with 10% ethyl acetate/90% hexanes to give the title compound as an oil (773 mg). 1H NMR (400 MHz, CDCl3) δ 1.8-2.3 (8H, m), 4.95 (4H, m), 5.73 (2H, m), and 7.31 (5H, m).

reactant | 2-phenylacetonitrile | 1 mL | C1(=CC=CC=C1)CC#N | C8H7N
reactant | sodium hydride | 547 mg | [H-].[Na+]
reactant | 4-Bromobut-1-ene | 2.2 mL | BrCCC=C | C4H7Br
reactant | sodium chloride | [Cl-].[Na+]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Butyl-2-phenylhex-5-enenitrile | 773 mg | C(CCC)C(C#N)(CCC=C)C1=CC=CC=C1 | C16H21N
